US09024027B2
To a solution of methyl 2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.200 g, 0.584 mmol) in dioxane (10 ml), aqueous 37% HCl (3.5 ml) was added, and the mixture was stirred at room temperature overnight. Additional aqueous 37% HCl (4 ml) was added over 30 hours with stirring the reaction at room temperature. The volatiles were removed under vacuum affording 2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid (0.183 g, 0.557 mmol, 95% yield). MS/ESI+ 328.9 [MH]+. This product was used without purification.

reactant | methyl 2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.584 mmol, 0.200 g | COC=1C=C2C(N(C(C2=CC1NS(=O)(=O)C)=O)CC(=O)OC)=O | C13H14N2O7S
reactant | HCl | 3.5 ml | Cl | ClH
reactant | HCl | 4 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid | 0.557 mmol, 0.183 g, 95% yield | COC=1C=C2C(N(C(C2=CC1NS(=O)(=O)C)=O)CC(=O)O)=O | C12H12N2O7S
